US06288267B1
To a solution of 4-[[(2,6-dichlorophenyl)carbonyl]amino]-N-[[1-[4-(methylsulfonyl)butyl] cyclopentyl]thioxomethyl]-L-phenylalanine methyl ester (25.86 mmol, 15.87 g) in ethanol (75 mL) was added aqueous 1. ON sodium hydroxide (60 mL) at 50° C. The mixture was heated to 50-55° C. and the resulting clear light brown solution was stirred for 22 h at which time TLC analysis of the mixture indicated the absence of starting material. The mixture was diluted with water and allowed to cool to room temperature and was filtered to remove a small amount of solids. The filtrate was concentrated and the residual aqueous solution was washed with diethyl ether (2×75 mL). The basic aqueous layer was acidified with 3.ON HCl to form a cloudy suspension and was extracted with ethyl acetate (3×100 mL). The combined ethyl acetate extracts were washed with brine (200 mL) then the dried (MgSO4) solution was filtered and evaporated to dryness. The residue was taken up in dichloromethane and diluted with diethyl ether:hexane (1:1) to obtain a solid which was collected by filtration. Trituration of the solid with hot ethyl acetate (˜100 mL) resulted in a suspension that was then diluted with diethyl ether (˜50 mL) and the solid was collected by filtration. The above Trituration was repeated to afford 10.89 g (70%) of 4-[[(2,6-dichlorophenyl)carbonyl]amino]-N-[[1-[4-(methylsulfonyl)butyl]cyclopentyl]thioxomethyl]-L-phenylalanine as a colorless solid. HR MS: Obs. mass, 599.1193. Calcd. mass, 599.1208 (M+H).

reactant | 4-[[(2,6-dichlorophenyl)carbonyl]amino]-N-[[1-[4-(methylsulfonyl)butyl] cyclopentyl]thioxomethyl]-L-phenylalanine methyl ester | 25.86 mmol, 15.87 g | COC([C@@H](NC(=S)C1(CCCC1)CCCCS(=O)(=O)C)CC1=CC=C(C=C1)NC(=O)C1=C(C=CC=C1Cl)Cl)=O | C28H34Cl2N2O5S2
solvent | ethanol | 75 mL | C(C)O | C2H6O
solvent | water | O | H2O
solvent | diethyl ether | ˜50 mL | C(C)OCC | C4H10O
product | 4-[[(2,6-dichlorophenyl)carbonyl]amino]-N-[[1-[4-(methylsulfonyl)butyl]cyclopentyl]thioxomethyl]-L-phenylalanine | 10.89 g, 70% | ClC1=C(C(=CC=C1)Cl)C(=O)NC1=CC=C(C[C@H](NC(=S)C2(CCCC2)CCCCS(=O)(=O)C)C(=O)O)C=C1 | C27H32Cl2N2O5S2
